US04150129
4.78 ml of glacial acetic acid are added dropwise to the ice-cooled mixture of 7.6 g of 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 13.3 ml of acetaldehyde, 4.5 g of sodium cyanoborohydride and 90 ml of acetonitrile. The mixture is stirred at room temperature for 90 minutes, cooled in an ice-bath, acidified to pH=1 with concentrated hydrochloric acid and evaporated. The residue is taken up in 150 ml of water, the solution washed with diethyl ether, filtered, basified with 3 N aqueous sodium hydroxide and extracted with diethyl ether. The extract is dried, evaporated, the residue crystallized from petroleum ether and further purified by suspension in hexane, to yield the 3-[2-(N-isopropyl-N-ethylamino)-propyl]-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 64°-66°.

reactant | 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 7.6 g | C(C)(C)NC(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C19H28N2O2
reactant | acetaldehyde | 13.3 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 4.5 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
solvent | acetic acid | 4.78 ml | C(C)(=O)O | C2H4O2
product | 3-[2-(N-isopropyl-N-ethylamino)-propyl]-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | C(C)(C)N(CC)C(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C21H32N2O2
